US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-yloxycarbonyl)amino]benzamide Hydrochloride
Using a similar procedure to that described in Example 9-C, N-(5-chloropyridin-2-yl)-2-[(piperidin-4-yloxycarbonyl)amino]benzamide (100 mg, 0.205 mmol), acetone (0.075 mL), and sodium cyanoborohydride (51 mg, 0.82 mmol) yielded, after treatment with HCl, 63 mg (67%) of the title compound as a hydrochloride salt.

reactant | N-(5-chloropyridin-2-yl)-2-[(piperidin-4-yloxycarbonyl)amino]benzamide | 0.205 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OC1CCNCC1)=O | C18H19ClN4O3
reactant | sodium cyanoborohydride | 0.82 mmol, 51 mg | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
reactant | acetone | 0.075 mL | CC(=O)C | C3H6O
product | N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-yloxycarbonyl)amino]benzamide Hydrochloride | 63 mg, 67% | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OC1CCN(CC1)C(C)C)=O | InChI=1S/C21H25ClN4O3.ClH/c1-14(2)26-11-9-16(10-12-26)29-21(28)24-18-6-4-3-5-17(18)20(27)25-19-8-7-15(22)13-23-19;/h3-8,13-14,16H,9-12H2,1-2H3,(H,24,28)(H,23,25,27);1H
